Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
transient b/l ___ weakness and R arm weakness
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
The patient is a ___ with hx of HTN, HLD, kidney stones, who
presents after a several hour long event of sudden onset
bilateral leg weakness making him unable to walk followed by
sudden right arm (primarily hand/grip) weakness all now 
gradually
resolved.

Patient states that he was in his normal state of health prior 
to
the events today.  He was cleaning out his loft this morning at
11AM with his wife and was moving objects around the room but 
did
not do any particular heavy lifting.  He was standing when he
suddenly felt that both of his legs were about to give out from
underneath him due to weakness and they felt like "jelly".  This
led him to slowly sit down on a milk crate. After sitting there
for several minutes he felt improved and was able to stand and
start walking down a flight of stairs.  However, on his way down
he felt his legs give out from underneath him again and he ended
up sitting on the steps for several minutes.  After this, his
wife was able to help him walk to the couch and then to the car
though he needed to hold onto furniture and objects along the 
way
to support himself.  On the way to the hospital he felt his 
right
arm suddenly get weak primarily involving his hand and he gives
an example of being unable to squeeze his wife's fingers during
this weakness.  After getting to ___ he could not get 
out
of the car or stand because of his leg weakness and required a
wheelchair to get into the emergency department.  

His symptoms of arm weakness slowly improved while he was in the
___. Initial ___ stroke scale by ED provider ___ 3 
for
drift in the right arm and bilateral legs.  Tele-stroke
evaluation showed ___ stroke scale of 0.  He underwent a
noncontrast head CT which was unremarkable and also underwent 
CTA
chest in addition to CT abdomen and pelvis with contrast.  All
these studies were unremarkable aside from a hypodensity in the
renal pole concerning for mass.  It is unclear why he received
these studies because he denies any shortness or breath, chest
discomfort, or abdominal discomfort. 

On the ambulance ride over from ___ he felt his legs
beginning to feel stronger and currently he feels improved but
not yet at 100%.

Throughout the above symptoms at no point did he feel any
lightheadedness, confusion, presyncope, numbness, pain (neck or
back). 

The above symptoms have never happened to him before.  The only
symptoms he has had recently was several weeks ago he had
symptoms of left-sided flank pain lasting several days that he
attributed to a kidney stone.  He did not seek medical care at
that time.  His symptoms resolved with aggressive fluid intake.

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies numbness, parasthesia. Denies loss of
sensation. Denies bowel or bladder incontinence or retention. 

On general review of systems, the pt denies recent fever or
chills.  Denies cough, shortness of breath.  Denies chest pain 
or
tightness, palpitations.  Denies nausea, vomiting, diarrhea,
constipation or abdominal pain. 

 
Past Medical History:
Hypertension
Hyperlipidemia
Pancreatic lesion at ___ years old
Kidney stones
 
Social History:
___
Family History:
Coronary artery disease-mother with CABG at age ___.  Father with
heart disease starting in his ___.
 
Physical Exam:
ADMISSION:

Vitals: 
Temp 98 Fahrenheit, HR 68, BP 138/78, RR 18, 98% on room air

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, no abdominal bruit
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   5  5* ___    5  5     5     5   4+
R  5    ___   5  5* ___    5  5     5     5   4+
R APB 4+/5; *trace weakness

-Sensory: No deficits to light touch, pinprick, cold sensation, 
proprioception throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3  1
R  2  2    2    3  1
Plantar response was w/d on the right, down on the left.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Mildly wide based and slow/hesitant gait
but does not sway with Romberg and can stand on toes/heels/bend
at his knees and stand back up straight. 

DISCHARGE:

Gen: well appearing gentleman who appears of stated age.
Neurologic:
- MS: alert, oriented, fluent speech
- CN: PERRL, EOMI, face symmetric
- Motor: 4+/5 R APB, trace b/l finger extensors weakness, b/l 
___ weakness likely chronic
- Reflexes: 3+ reflexes in the legs, 2+ in the arms, abdominal 
reflexes present at all levels.
- Sensation: intact throughout to pinprick, light touch, and 
proprioception. No sensory level.
- Gait: mildly wide based and slow/hesitant gait.
 
Pertinent Results:
LABORATORY EVALUATION:

___ 08:35AM BLOOD WBC-6.3 RBC-4.33* Hgb-12.8* Hct-38.5* 
MCV-89 MCH-29.6 MCHC-33.2 RDW-12.7 RDWSD-41.3 Plt ___
___ 08:35AM BLOOD ___ PTT-29.6 ___
___ 08:35AM BLOOD Glucose-87 UreaN-15 Creat-1.0 Na-141 
K-4.6 Cl-107 HCO3-23 AnGap-11
___ 08:35AM BLOOD Calcium-9.0 Phos-3.8 Mg-2.0 Cholest-148
___ 08:35AM BLOOD ALT-17 AST-14 CK(CPK)-84 AlkPhos-58 
TotBili-0.4
___ 08:35AM BLOOD CK-MB-1 cTropnT-<0.01
___ 08:35AM BLOOD %HbA1c-5.7 eAG-117
___ 08:35AM BLOOD Triglyc-83 HDL-49 CHOL/HD-3.0 LDLcalc-82
___ 08:35AM BLOOD TSH-3.3

IMAGING EVALUATION:

CTA head/neck:
IMPRESSION: 
1. No acute intracranial hemorrhage or large vascular 
territorial infarction by CT. 
2. Patent intracranial cervical vasculature without high-grade 
stenosis or 
aneurysm. 
3. Mild right maxillary sinus disease. 

MRI C/T-spine:
IMPRESSION: 
1. Degenerative changes of the cervical spine are most 
significant at C5-C6 where there is mild spinal canal narrowing 
and severe right neural foraminal narrowing. 
2. Small central disc protrusions at T7-T8 and T8-T9 with mild 
spinal canal narrowing.  The T7-T8 protrusion likely makes 
contact with the ventral cord. 
3. No cord compression or abnormal signal within the spinal 
cord.  No abnormal enhancement. 
  
MRI head:
IMPRESSION:   
1. No acute intracranial abnormality. 
2. Minimal white matter 

 
Brief Hospital Course:
___ year old man who presented with acute onset fluctuating 
bilateral lower extremity weakness while moving and cleaning out 
his loft, as well as transient decreased right hand grip 
strength. All of his symptoms had resolved by presentation, and 
his neurologic examination was normal. He was admitted for more 
imaging, including an MRI of his head, which was negative for 
acute infarct, and MRI of his cervical and thoracic spine, which 
showed small multilevel disc herniations with resultant 
remodeling of the spinal cord but no severe canal or 
neuroforaminal stenosis. Etiology of his symptoms felt likely to 
represent structurally exacerbated strain of disc herniations. 
He was counseled on good lifting techniques and given Rx for 
physical therapy upon discharge home.

Transitional issues:
[ ] ___ for back exercises, suggest use of thoracolumbar back 
brace
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Lisinopril 20 mg PO DAILY 
4. Hydrochlorothiazide 12.5 mg PO DAILY 
5. Cyanocobalamin 1000 mcg PO DAILY 
6. saw ___ 900 mg oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 20 mg PO QPM  
3.  Cyanocobalamin 1000 mcg PO DAILY  
4.  Hydrochlorothiazide 12.5 mg PO DAILY  
5.  Lisinopril 20 mg PO DAILY  
6.  saw ___ 900 mg oral DAILY  
7.Outpatient Physical Therapy
ICD 9: 722.11
PCP: Dr. ___ Care
P: ___ F: ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient bilateral leg weakness
Multilevel cervical and thoracic spine disc herniations

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted because of symptoms of bilateral leg weakness 
that resolved in the setting of significant moving and cleaning. 
We performed imaging that showed you did not have an acute 
stroke. Your symptoms also resolved, and your neurologic 
examination was essentially normal.

We did find on imaging of your spinal cord that you have 
multiple areas of small disc herniations along your cervical and 
thoracic spinal cord. While these are not significant enough to 
be causing major problems that would require surgery, we suspect 
that these may have transiently caused symptoms to your spinal 
cord if you applied enough stress, such as significant bending 
and straining of your back. 

To prevent further problems in the future, you should employ 
proper lifting techniques that reduce strain on your back. 
Wearing a back brace may help with this. In addition, you should 
ensure regular exercise to strengthen your abdominal muscles and 
prevent weight gain which can also exacerbate stress on your 
back. We will give you a prescription for outpatient physical 
therapy for back exercises.

We will not make any changes to your medications. You may follow 
up with your PCP to continue care. 

It was a pleasure taking care of you. We wish you the best!
Sincerely,
Your ___ Care Team
 
Followup Instructions:
___